US08748627B2
2-bromo-5-(4-methoxyphenoxy)-1,3,4-thiadiazole
2,5-dibromo-1,3,4-thiadiazole (2 g, 8.16 mmol), (prepared according to Example 1 as described in U.S. Pat. No. 5,847,149) was dissolved in N,N-dimethyl formamide (65 mL) and the resulting solution was treated with K2CO3 (1.69 g, 12.24 mmol) and 4-methoxyphenol (1.01 g, 8.16 mmol). The reaction mixture was heated at 90° C. for 1.5 hours, cooled to 25° C., poured into water (150 mL) and extracted with diethyl ether (2×150 mL) The combined organic layers were washed with 1N NaOH (1×100 mL), water (3×100 mL) and brine (1×100 mL), dried (Na2SO4), filtered and evaporated to provide 2.3 g of a light yellow oil. The residue was purified by flash chromatography on silica gel eluting with a solvent gradient from 1% to 14% ethyl acetate in hexanes to provide 1.86 g (79%) of the title compound, 1H NMR (300 MHz, DMSO-d6) δ ppm 7.40 (d, J=9.19 Hz, 2H) 7.04 (d, J=9.19 Hz, 2H) 3.79 (s, 3H); MS (APCI) m/z 289 (M+H)+.

reactant | 2,5-dibromo-1,3,4-thiadiazole | 8.16 mmol, 2 g | BrC=1SC(=NN1)Br | C2Br2N2S
reactant | K2CO3 | 12.24 mmol, 1.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenol | 8.16 mmol, 1.01 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | water | 150 mL | O | H2O
solvent | N,N-dimethyl formamide | 65 mL | CN(C=O)C | C3H7NO
product | 2-bromo-5-(4-methoxyphenoxy)-1,3,4-thiadiazole | 2.3 g | BrC=1SC(=NN1)OC1=CC=C(C=C1)OC | C9H7BrN2O2S
